US09376422B2
To a stirred solution of methyl 2-bromo-3-(cyclopentylamino)benzoate (1.4 g, 4.69 mmol) in acetonitrile (10 mL), cesium carbonate (3 g, 9.2 mmol) and methyl iodide (3.38 g, 23.3 mmol) were added and the resulting reaction mixture heated at 80° C. for 12 h. On completion, the mixture was cooled to room temperature and filtered and the residue was washed with ethyl acetate. The filtrate was concentrated and purified by column chromatography to afford methyl 2-bromo-3-(cyclopentyl(methyl)amino)benzoate (1.1 g, 75%).

reactant | methyl 2-bromo-3-(cyclopentylamino)benzoate | 4.69 mmol, 1.4 g | BrC1=C(C(=O)OC)C=CC=C1NC1CCCC1 | C13H16BrNO2
reactant | cesium carbonate | 9.2 mmol, 3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 23.3 mmol, 3.38 g | CI | CH3I
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | methyl 2-bromo-3-(cyclopentyl(methyl)amino)benzoate | 1.1 g, 75% | BrC1=C(C(=O)OC)C=CC=C1N(C)C1CCCC1 | C14H18BrNO2
